US05698579
To a stirred solution of methyl 3-amino-3-(3-ethoxy-4-methoxyphenyl)propionate hydrochloride (0.87 g, 3.0 mmol) and sodium carbonate (0.32 g, 3.0 mmol) in a mixture of water (10 mL) and acetonitrile (10 mL) was added N-carbethoxyphthalimide (0.68 g, 3.0 mmol). The resulting solution was stirred for 3 hours at room temperature. The acetonitrile was removed in vacuo. To the resulting mixture was added ether (5 mL) and the mixture was stirred at room temperature overnight allowing the ether to evaporate. The resulting white solid was filtered. The solid was washed with water, air dried, and dried in vacuo (60° C., <1 mm) to afford 1.0 g (87%) of methyl 3-phthalimido-3-(3-ethoxy-4-methoxyphenyl)propionate as a white solid: mp 86°-87° C.; 1H NMR (CDCl3) δ7.86-7.63 (m, 4H), 7.16-7.05 (m, 2H), 6.88-6.76 (m, 1H), 5.77 (dd, J=5.9, 10 Hz, 1H), 4.11 (q, J=7 Hz, 2H), 3.84 (s, 3H), 3.77 (dd, J=10, 6.7 Hz, 1H), 3.63 (s, 3,25 (dd, J=5.9, 165.5 Hz, 1H), 1.45 (t, J=7 Hz, 3H); 13C NMR (CDCl3) δ171.0, 168.0, 149.0, 148.2, 133.9, 131.7, 130.9, 123.2, 120.2, 112.5, 111.1, 64.3, 55.8, 51.8, 50.7, 35.8, 14.6; HPLC (Waters Nova-Pak C18 column, 3.9×150 mm, 4 micron, 1 mL/min, 240 nm, 45/55, acetonitrile/0.1% aqueous phosphoric acid 6 min, 100%, Anal. Calcd. for C21H21NO6. Theoretical: C, 65.79; H, 5.52; N, 3.65. Found: C, 65.71; H, 5.70; N, 3.63.

reactant | methyl 3-amino-3-(3-ethoxy-4-methoxyphenyl)propionate hydrochloride | 3.0 mmol, 0.87 g | Cl.NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OCC
reactant | sodium carbonate | 3.0 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 3.0 mmol, 0.68 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 3-phthalimido-3-(3-ethoxy-4-methoxyphenyl)propionate | 1.0 g, 87% | C1(C=2C(C(N1C(CC(=O)OC)C1=CC(=C(C=C1)OC)OCC)=O)=CC=CC2)=O | C21H21NO6
